US04741804
2-[2-(2-Hydroxyethoxy)propyl]-1,3-dioxolane
A total of 35.0 g. (0.5 mole) of crotonaldehyde and 124 g. (2.0 mole of ethylene glycol were dissolved in 200 ml. of toluene and added to a 500 ml. round bottom flask equipped with magnetic stir bar, heating mantle, Dean-Starke trap, reflux condenser and nitrogen inlet. p-Toluene-sulfonic acid (0.6 g.-0.003 mole) was added to the mixture. The mixture was refluxed until the calculated amount of water (9.0 g.) was collected, cooled quickly in an ice bath to room temperature, and then dried and simultaneously neutralized with excess sodium carbonate. The solution was filtered and the solvent removed under vacuum (rotovap). The residual brown oil was subjected to high vacuum distillation The first fraction, collected between 55° and 80° C. at 0.5 mm./Hg, was primarily ethylene glycol. The second fraction, collected at between 80° and 90° C., was primarily the above dioxolane with a trace amount of ethylene glycol which can be removed by column chromatography (neutral alumina:ether/petroleum ether: 1/1). Yield was 50-60%.

reactant | crotonaldehyde | 0.5 mole | C(\C=C\C)=O | C4H6O
reactant | ethylene glycol | 2.0 mole | C(CO)O | C2H6O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-Toluene-sulfonic acid | -0.003 mole, 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 9.0 g | O | H2O
product | 2-[2-(2-Hydroxyethoxy)propyl]-1,3-dioxolane | Yield was 50-60% | OCCOC(CC1OCCO1)C | C8H16O4
